US09303012B2
c) 5-Cyclopropyl-6-(2,2,2-trifluoro-1-methyl-ethoxy)-pyridine-2-carboxylic acid tert-butyl-methyl-amide
In analogy to the procedure described in Example 47 b), 5-cyclopropyl-6-(1,1,1-trifluoropropan-2-yloxy)picolinic acid was reacted with 2-methyl-2-(methylamino)propan-1-ol (CAN 27646-80-6) in the presence of TBTU and DIEA to obtain the title compound as white solid; MS (EI): m/e=345.4 [MH+].

reactant | 5-cyclopropyl-6-(1,1,1-trifluoropropan-2-yloxy)picolinic acid | C1(CC1)C=1C=CC(=NC1OC(C(F)(F)F)C)C(=O)O | C12H12F3NO3
reactant | 2-methyl-2-(methylamino)propan-1-ol | CC(CO)(C)NC | C5H13NO
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 5-Cyclopropyl-6-(2,2,2-trifluoro-1-methyl-ethoxy)-pyridine-2-carboxylic acid tert-butyl-methyl-amide | C(C)(C)(C)N(C(=O)C1=NC(=C(C=C1)C1CC1)OC(C(F)(F)F)C)C | C17H23F3N2O2
